US07700641B2
Synthesis of 7′-fluorospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
A solution of 7-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one (2.00 g, 7.00 mmol) and paraformaldehyde (2.10 g, 61.0 mmol) in THF (50 mL) was degassed by bubbling through argon for one hour, followed by the slow addition of lithium diisopropylamide (48.8 mL, freshly made 0.50 M solution, 25 mmol) at −78° C. The mixture was stirred at ambient temperature overnight and quenched with saturated ammonium chloride (50.0 mL). The mixture was extracted with ethyl acetate (3×100 mL). The combined organic layers was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was dissolved in anhydrous ethyl acetate (50 mL) followed by the addition of tributylphosphine (2.10 mL, 8.00 mmol) and di-tert-butyl azodicarboxylate (1.90 g, 8.00 mmol) at 0° C. The reaction mixture was stirred at ambient temperature for 16 h and quenched with saturated ammonium chloride (30.0 mL). The organic layer was separated, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was dissolved in methanol (70.0 mL) followed by the addition of saturated sodium bicarbonate solution (30.0 mL). The resulted mixture was refluxed at 100° C. for one hour. After cooling down to ambient temperature, the mixture was extracted with ethyl acetate (3×50.0 mL). The combined organic layers was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (ethyl acetate/hexane, 1/5) to give the title compound (0.27 g, 17%): 1H NMR (300 MHz, DMSO-d6) δ 11.06 (s, 1H), 7.17-7.08 (m, 1H), 7.00-6.88 (m, 2H), 6.64 (s, 1H), 6.33 (s, 1H), 5.92-5.85 (m, 2H), 4.74 (d, 1H), 4.62 (d, 1H).

reactant | 7-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | 7.00 mmol, 2.00 g | FC=1C=CC=C2C(C(NC12)=O)C1=CC2=C(OCO2)C=C1O | C15H10FNO4
reactant | paraformaldehyde | 61.0 mmol, 2.10 g | C=O | CH2O
reactant | tributylphosphine | 8.00 mmol, 2.10 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | di-tert-butyl azodicarboxylate | 8.00 mmol, 1.90 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 7′-fluorospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 0.27 g, 17% | FC=1C=CC=C2C3(C(NC12)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10FNO4
